US08217032B2
5-[4-(2-Azepan-1-yl-ethoxy)-phenyl]-9-fluoro-5H-6-oxa-chrysen-2-ol
Dissolve 5-{[4-(2-azepan-1-yl-ethoxy)-phenyl]-hydroxymethyl}-6-(2,5-difluorophenyl)-naphthalen-2-ol (770 mg, 1.54 mmol) in 20 mL dry DMF and add sodium t-butoxide (1.18 g, 12.32 mmol). Heat the mixture to 50° C. for two hours. Dilute with water and extract multiple times with methylene chloride. Dry the organic layer and purify on a silica gel column eluting with a 0-10% methanol/methylene chloride gradient. The yield is 370 mg (50%): 1H-NMR (CDCl3, 300 MHz) δ7.76 (dd, J=12.6, 8.4 Hz, 2H); 7.58 (d, J=9.0 Hz, 1H); 7.43-7.40 (m, 1H); 7.15 (d, J=2.4 Hz, 1H); 7.05-7.01 (m, 3H); 6.89 (s, 1H); 6.83-6.80 (m, 2H); 6.66-6.63 (m, 2H); 4.00-3.98 (m, 2H); 2.92-2.92 (m, 2H); 2.78-2.78 (m, 4H); 1.66-1.59 (m, 8H). The racemic compound is purified using chiral chromatography (conditions P). The two isomers eluted with retention times of 9.9 and 13.5 minutes.

reactant | 5-{[4-(2-azepan-1-yl-ethoxy)-phenyl]-hydroxymethyl}-6-(2,5-difluorophenyl)-naphthalen-2-ol | 1.54 mmol, 770 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(C1=C2C=CC(=CC2=CC=C1C1=C(C=CC(=C1)F)F)O)O | C31H31F2NO3
reactant | sodium t-butoxide | 12.32 mmol, 1.18 g | CC(C)([O-])C.[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-[4-(2-Azepan-1-yl-ethoxy)-phenyl]-9-fluoro-5H-6-oxa-chrysen-2-ol | N1(CCCCCC1)CCOC1=CC=C(C=C1)C1C2=C3C=CC(=CC3=CC=C2C2=CC(=CC=C2O1)F)O | C31H30FNO3
